US07776869B2
To a yellow solution of (R)-5-(2-(2-aminopyrimidin-5-yl)ethynyl)-N-(2-(3-(tert-butyldimethylsilyloxy)piperidin-1-yl)-5-(trifluoromethyl)phenyl)-2-fluorobenzamide (0.162 g, 0.264 mmol) was added tetrabutylammonium fluoride, 1.0 M in THF (0.688 ml, 2.38 mmol). The reaction was allowed to stir for 6 h, at which point it was found by TLC analysis to be complete. The reaction was diluted with EtOAc and washed once with brine. The organic layer was dried over anhydrous sodium sulfate and concentrated in vacuo to give a yellow oil, which was purified by silica gel chrmatography, 0-10% MeOH/MC to give (R)-5-(2-(2-aminopyrimidin-5-yl)ethynyl)-2-fluoro-N-(2-(3-hydroxypiperidin-1-yl)-5-(trifluoromethyl)phenyl)benzamide as an off-white solid. MS m/z=500 [M+H]+. Calc'd for C25H21F4N5O2: 499.

reactant | (R)-5-(2-(2-aminopyrimidin-5-yl)ethynyl)-N-(2-(3-(tert-butyldimethylsilyloxy)piperidin-1-yl)-5-(trifluoromethyl)phenyl)-2-fluorobenzamide | 0.264 mmol, 0.162 g | NC1=NC=C(C=N1)C#CC=1C=CC(=C(C(=O)NC2=C(C=CC(=C2)C(F)(F)F)N2C[C@@H](CCC2)O[Si](C)(C)C(C)(C)C)C1)F | C31H35F4N5O2Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | THF | 2.38 mmol, 0.688 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-5-(2-(2-aminopyrimidin-5-yl)ethynyl)-2-fluoro-N-(2-(3-hydroxypiperidin-1-yl)-5-(trifluoromethyl)phenyl)benzamide | NC1=NC=C(C=N1)C#CC=1C=CC(=C(C(=O)NC2=C(C=CC(=C2)C(F)(F)F)N2C[C@@H](CCC2)O)C1)F | C25H21F4N5O2
